US09169254B2
4 M hydrochloric acid-dioxane (1.80 ml) and water (0.0173 ml, 0.960 mmol) were added to 8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester (35.9 mg, 0.048 mmol), and the mixture was stirred at room temperature for five hours. The reaction solution was concentrated under reduced pressure to give 4-{2-[2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid as a white solid.

reactant | hydrochloric acid dioxane | 4 M, 1.80 ml | Cl.O1CCOCC1
reactant | water | 0.960 mmol, 0.0173 ml | O | H2O
reactant | 8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | 0.048 mmol, 35.9 mg | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)OCCC#C | C37H44F3N3O8S
product | 4-{2-[2-(3-but-3-ynyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid | C(CC#C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C(=O)O)C=C2)C | C28H28F3N3O6S
